US06852731B2
2-(methylamino)-1-quinolin-2-ylethanol
Potassium hydroxide (3.21 g) and H2O (0.13 mL) are added to acetonitrile (50 mL). Trimethylsulfonium iodide (5.84 g) and 2-quinoline carboxaldehyde (4.50 g) are then added. The reaction mixture is heated to 60° C. for 4 h. The reaction mixture is allowed to cool to room temperature and is diluted with Et2O (25 mL) The precipitate is filtered off. 1H NMR of an aliquot of the filtrate showed mostly starting material and a small amount of the desired epoxide. The filtrate is concentrated in vacuo and the residue is re-subjected to the reaction conditions above and heated to 60° C. for 1 h. The reaction mixture is allowed to cool to room temperature and is diluted with Et2O (25 mL). The precipitate is filtered off and the filtrate is concentrated in vacuo. The resulting crude epoxide (5.5 g) is dissolved in methanol (20 mL) and added to a 2.0 M solution of methylamine in methanol (100 mL). The reaction mixture is heated to reflux for 1 h. The reaction mixture is allowed to cool to room temperature and concentrated in vacuo. The resulting brown oil is purified via column chromatography (CHCl3/methanol, 95/5, 90/10; CHCl3/methanol/NH4OH, 90/10/1) to yield 1.191 g of the title compound as a yellow-green oil.

reactant | Potassium hydroxide | 3.21 g | [OH-].[K+]
reactant | H2O | 0.13 mL | O | H2O
reactant | Trimethylsulfonium iodide | 5.84 g | [I-].C[S+](C)C
reactant | 2-quinoline carboxaldehyde | 4.50 g | N1=C(C=CC2=CC=CC=C12)C=O | C10H7NO
reactant | acetonitrile | 50 mL | C(C)#N | C2H3N
solvent | Et2O | 25 mL | CCOCC | C4H10O
solvent | Et2O | 25 mL | CCOCC | C4H10O
product | 2-(methylamino)-1-quinolin-2-ylethanol | 1.191 g | CNCC(O)C1=NC2=CC=CC=C2C=C1 | C12H14N2O
